US05442060
To a solution of 25.9 g of 5, 6, 7, 8-tetrahydronaphthol in 210 ml of ether was dropwise added 60% nitric acid at 15°-20° C. with stirring in 1 hour, and the resultant mixture was stirred at room temperature for 3 hours. The reaction mixture was washed with water (6 times) and saturated saline and the organic layer was dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was chromatographed on a column of silica gel, eluting with ethyl acetate/n-hexane (1:15) to give 10.12 g of 1-nitro-5, 6, 7, 8-tetrahydro-2-naphthol.

reactant | 5, 6, 7, 8-tetrahydronaphthol | 25.9 g | C1(=CC=CC=2CCCCC12)O | C10H12O
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | ether | 210 ml | CCOCC | C4H10O
product | 1-nitro-5, 6, 7, 8-tetrahydro-2-naphthol | 10.12 g | [N+](=O)([O-])C1=C(C=CC=2CCCCC12)O | C10H11NO3
